US07622471B2
Piperidine-2-carboxylic acid dimethylamide
The general procedure of Referential Example 131 was repeated through use of N-benzyloxypiperidine-2-carboxylic acid (6.4 g) and dimethylamine hydrochloride (2 g), to thereby give the title compound as an oily product (3.8 g, quantitative amount).

reactant | N-benzyloxypiperidine-2-carboxylic acid | 6.4 g | C(C1=CC=CC=C1)ON1C(CCCC1)C(=O)O | C13H17NO3
reactant | dimethylamine hydrochloride | 2 g | Cl.CNC
product | Piperidine-2-carboxylic acid dimethylamide | CN(C(=O)C1NCCCC1)C | C8H16N2O
